US08084623B2
To a stirred solution of 2-butyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.520 g, 1.29 mmol) in DCM (20 mL) at 0° C. under nitrogen was added DMP (0.658 g, 1.55 mmol) in a single portion. The reaction mixture was warmed to ambient temperature and stirred for 30 minutes, then diluted with DCM, washed with 1 N NaOH and brine, then dried (MgSO4), filtered and concentrated in vacuo to a yellow oil (0.62 g). Purification by chromatography (silica, 10-20% EtOAc in hexanes) gave 2-butyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.441 g, 1.10 mmol, 85%) as a clear colourless gum.

reactant | 2-butyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.29 mmol, 0.520 g | C(C)(C)(C)OC(=O)N1C(CCC1)(C(O)C1=CC(=C(C=C1)Cl)Cl)CCCC | C20H29Cl2NO3
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-butyl-2-(3,4-dichloro-benzoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.10 mmol, 0.441 g, 85% | C(C)(C)(C)OC(=O)N1C(CCC1)(C(C1=CC(=C(C=C1)Cl)Cl)=O)CCCC | C20H27Cl2NO3
